US06399628B1
Synthesis of 2-[N-(naphth-2-yl)amino]butanoic acid ethyl ester
Following General Procedure J above and using 2-aminonaphthalene (Aldrich) and ethyl 2-bromobutyrate (Aldrich), the title compound was prepared as a solid, m.p. 81-83° C. The reaction was monitored by silica gel tlc (Rf=0.5 in CHCl3). Purification was by chromatography (silica gel using chloroform as the eluant).

reactant | 2-aminonaphthalene | NC1=CC2=CC=CC=C2C=C1 | C10H9N
reactant | ethyl 2-bromobutyrate | BrC(C(=O)OCC)CC | C6H11BrO2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-[N-(naphth-2-yl)amino]butanoic acid ethyl ester | C(C)OC(C(CC)NC1=CC2=CC=CC=C2C=C1)=O | C16H19NO2
